US06265421B1
a) 5,7-Dimethoxy-3-(2-fluorobenzyl)-4-methyl-2(1H)-quinolinone
Ethyl 2-(2-fluorobenzyl)acetoacetate (2.5 g) in xylene (1 ml) was heated to 150° C. and 3,5-dimethoxyaniline (1.46 g) in xylene (4 ml) was added in small portions during 30 minutes. The reaction mixture was heated at 160° C. for 3 hours and then cooled to room temperature. Methanesulfonic acid (1.7 ml) was added and the mixture was stirred at ambient temperature for 30 minutes. Water was added and the precipitate filtered and dried. The product was triturated with warm ethanol. Yield 0.64 g (21%).

reactant | Ethyl 2-(2-fluorobenzyl)acetoacetate | 2.5 g | FC1=C(CC(C(=O)OCC)C(=O)C)C=CC=C1 | C13H15FO3
reactant | 3,5-dimethoxyaniline | 1.46 g | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | Methanesulfonic acid | 1.7 ml | CS(=O)(=O)O | CH4O3S
reactant | Water | O | H2O
solvent | xylene | 1 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 4 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5,7-Dimethoxy-3-(2-fluorobenzyl)-4-methyl-2(1H)-quinolinone | COC1=C2C(=C(C(NC2=CC(=C1)OC)=O)CC1=C(C=CC=C1)F)C | C19H18FNO3
